US08445510B2
5-[1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-1H-pyrazol-4-yl]-3-[1-(2,6-dichloro-3-fluorophenyl)-2-fluoro-2,2-bis(phenylsulfonyl)ethyl]-1H-pyrrolo[2,3-b]pyridine
To a mixture of 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (202.16 mg, 0.48079 mmol), Potassium fluoride (76.18 mg, 1.311 mmol) and 3-[2,2-Bis-benzenesulfonyl-1-(2,6-dichloro-3-fluoro-phenyl)-2-fluoroethyl]-5-bromo-1H-pyrrolo[2,3-b]pyridine (300.00 mg, 0.43708 mmol) in 1,4-Dioxane (10.00 mL, 128.1 mmol) and H2O (2.500 mL, 138.8 mmol) was added (1,1′-bis-(diphenylphosphino)-ferrocene) palladium dichloride (15.99 mg, 0.02185 mmol) under Nitrogen atmosphere, the resulting mixture was then stirred at 90° C. for 90 min. Then the solvent was removed under reduced pressure to give a residue, which was purified by silica gel chromatography (eluent: 20-30% AcOEt in DCM) to give the title compound. MS (ES+): m/z 899.20, 901.21 [MH+]. HPLC: tR=1.98 min (polar—3 min, TOF).

reactant | 1-(trans-4-{[tert-butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 0.48079 mmol, 202.16 mg | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1C)B1OC(C(O1)(C)C)(C)C | C22H41BN2O3Si
reactant | Potassium fluoride | 1.311 mmol, 76.18 mg | [F-].[K+]
reactant | 3-[2,2-Bis-benzenesulfonyl-1-(2,6-dichloro-3-fluoro-phenyl)-2-fluoroethyl]-5-bromo-1H-pyrrolo[2,3-b]pyridine | 0.43708 mmol, 300.00 mg | C1(=CC=CC=C1)S(=O)(=O)C(C(C1=C(C(=CC=C1Cl)F)Cl)C1=CNC2=NC=C(C=C21)Br)(F)S(=O)(=O)C2=CC=CC=C2 | C27H17BrCl2F2N2O4S2
reactant | 1,4-Dioxane | 128.1 mmol, 10.00 mL | O1CCOCC1 | C4H8O2
reactant | H2O | 138.8 mmol, 2.500 mL | O | H2O
catalyst | (1,1′-bis-(diphenylphosphino)-ferrocene) palladium dichloride | 0.02185 mmol, 15.99 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | 5-[1-(trans-4-{[tert-Butyl(dimethyl)silyl]oxy}cyclohexyl)-5-methyl-1H-pyrazol-4-yl]-3-[1-(2,6-dichloro-3-fluorophenyl)-2-fluoro-2,2-bis(phenylsulfonyl)ethyl]-1H-pyrrolo[2,3-b]pyridine | [Si](C)(C)(C(C)(C)C)O[C@@H]1CC[C@H](CC1)N1N=CC(=C1C)C=1C=C2C(=NC1)NC=C2C(C(S(=O)(=O)C2=CC=CC=C2)(S(=O)(=O)C2=CC=CC=C2)F)C2=C(C(=CC=C2Cl)F)Cl | C43H46Cl2F2N4O5S2Si
